US07507726B2
(2R)-2-({N-Benzoxy-amino}methyl)-7-octenoic acid
To a mixture of (3R)-3-(5-hexen-1-yl)-N-benzoxy-2-azetidinone (0.39 g, 1.52 mmol) in a mixture of THF—H2O-MeOH (15 mL, 3:1:1 v/v) was added lithium hydroxide monohydrate (1.64 g, 15.2 mmol). After stirring at room temperature overnight, water (15 mL) was added to the mixture. The solution was acidified to pH 4 with 3N aqueous HCl solution. It was extracted with EtOAc (30 mL×2). The combined organic layers were dried over MgSO4. Removal of the solvent under vacuum provided the title compound. MH+278.

reactant | (3R)-3-(5-hexen-1-yl)-N-benzoxy-2-azetidinone | 1.52 mmol, 0.39 g | C(CCCC=C)[C@H]1C(N(C1)OCC1=CC=CC=C1)=O | C16H21NO2
reactant | lithium hydroxide monohydrate | 15.2 mmol, 1.64 g | O.[OH-].[Li+]
reactant | water | 15 mL | O | H2O
reactant | HCl | 3N | Cl | ClH
solvent | THF H2O MeOH | 15 mL | C1CCOC1.O.CO
product | (2R)-2-({N-Benzoxy-amino}methyl)-7-octenoic acid | C(C1=CC=CC=C1)ONC[C@H](C(=O)O)CCCCC=C | C16H23NO3
